* Impedance Multiplier
* 1,2 control voltage +/-
* 3,0 reference impedance Zref
* 4,5 output node, Z = V(1,2)*Zref
* Condition: V(1,2) > 0
*

.subckt Z_mult 1 2 3 4 5 
R1 1 2 1G
R6 6 0 1e6
B4 5 4 I=1/sqrt(V(7))*V(6)
B3 3 0 I=sqrt(V(7))*V(6)
B1 0 6 I=sqrt(V(7))*V(3)
B2 6 0 I=1/sqrt(V(7))*V(4,5)
B5 0 7 I=sqrt(abs(V(1,2)))
R7 7 0 1
.ends
