.SUBCKT  cfy30.LIB 1 2 3; Port1 Port2 Common
*Subcircuit generated by S2P2LIB1.EXE on 08-29-2003
* SIEMENS Small Signal Semiconductors 
* CFY30 Id=30mA, Vd=3.5V
* Si NPN RF Bipolar Junction Transistor in SOT223 
* VCE = 0.75 V     IC = 70 mA      
* Common Source S-Parameters:                       August  1996 
*  f         S11            S21            S12            S22 
* GHz     MAG   ANG      MAG   ANG      MAG   ANG      MAG   ANG 
* 
 
R1N 1 5 -50
R1P 5 7 100
R2N 2 4 -50
R2P 4 6 100
 
* E11 7 9 FREQ {V(5,3)}= MAG | DB | R_I | DEG | RAD
* Default is DB and DEG,  R_I is real and imag

*S11   FREQ   DB   PHASE
E11 7 9 FREQ {V(5,3)}= MAG
+(  0.01gHz,    1.00, -0.2)
+(  0.02gHz,    1.00, -0.4)
+(  0.05gHz,    1.00, -1)
+(  0.10gHz,    1.00, -2)
+(  0.40gHz,    1.00, -8)
+(  0.80gHz,    0.99, -16)
+(  1.20gHz,    0.97, -24)
+(  1.60gHz,    0.95, -32)
+(  2.00gHz,    0.92, -40)
+(  2.40gHz,    0.90, -48)
+(  2.80gHz,    0.87, -58)
+(  3.20gHz,    0.83, -68)
+(  3.60gHz,    0.79, -79)
+(  4.00gHz,    0.75, -91)
+(  4.40gHz,    0.71, -102)
+(  4.80gHz,    0.67, -114)
+(  5.20gHz,    0.63, -126)
+(  5.60gHz,    0.60, -138)
+(  6.00gHz,    0.57, -150)
+(  8.00gHz,    0.50, 147)
+(  10.00gHz,    0.57, 90)
+(  12.00gHz,    0.62, 68) 
 
*S21   FREQ   DB   PHASE
E21 6 8 FREQ {V(5,3)}= MAG
+(  0.01gHz,    3.23, 179.8)
+(  0.02gHz,    3.23, 179.6)
+(  0.05gHz,    3.23, 179)
+(  0.10gHz,    3.23, 178)
+(  0.40gHz,    3.21, 171)
+(  0.80gHz,    3.19, 162)
+(  1.20gHz,    3.18, 153)
+(  1.60gHz,    3.17, 143)
+(  2.00gHz,    3.17, 135)
+(  2.40gHz,    3.17, 127)
+(  2.80gHz,    3.17, 119)
+(  3.20gHz,    3.16, 109)
+(  3.60gHz,    3.12, 99)
+(  4.00gHz,    3.08, 88)
+(  4.40gHz,    3.04, 78)
+(  4.80gHz,    3.00, 68)
+(  5.20gHz,    2.95, 58)
+(  5.60gHz,    2.87, 49)
+(  6.00gHz,    2.77, 40)
+(  8.00gHz,    2.36, -4)
+(  10.00gHz,    1.82, -47)
+(  12.00gHz,    1.38, -82)  
 
*S12   FREQ   DB   PHASE
E12 9 3 FREQ {V(4,3)}= MAG
+(  0.01gHz,    0.0002, 89.5)
+(  0.02gHz,    0.0004, 89.0)
+(  0.05gHz,    0.001, 87.5)
+(  0.10gHz,    0.002, 85)
+(  0.40gHz,    0.009, 79)
+(  0.80gHz,    0.017, 73)
+(  1.20gHz,    0.025, 70)
+(  1.60gHz,    0.034, 65)
+(  2.00gHz,    0.042, 61)
+(  2.40gHz,    0.051, 56)
+(  2.80gHz,    0.059, 50)
+(  3.20gHz,    0.067, 45)
+(  3.60gHz,    0.073, 40)
+(  4.00gHz,    0.079, 34)
+(  4.40gHz,    0.084, 28)
+(  4.80gHz,    0.089, 21)
+(  5.20gHz,    0.092, 15)
+(  5.60gHz,    0.094, 10)
+(  6.00gHz,    0.096, 4)
+(  8.00gHz,    0.099, -20)
+(  10.00gHz,    0.099, -41)
+(  12.00gHz,    0.104, -55)
 
*S22   FREQ   DB   PHASE
E22 8 3 FREQ {V(4,3)}= MAG
+(  0.01gHz,    0.71, -0.1)
+(  0.02gHz,    0.71, -0.2)
+(  0.05gHz,    0.71, -0.5)
+(  0.10gHz,    0.71, -1)
+(  0.40gHz,    0.70, -6)
+(  0.80gHz,    0.69, -11)
+(  1.20gHz,    0.67, -16)
+(  1.60gHz,    0.66, -21)
+(  2.00gHz,    0.65, -26)
+(  2.40gHz,    0.63, -31)
+(  2.80gHz,    0.61, -36)
+(  3.20gHz,    0.58, -42)
+(  3.60gHz,    0.55, -48)
+(  4.00gHz,    0.52, -54)
+(  4.40gHz,    0.50, -60)
+(  4.80gHz,    0.47, -66)
+(  5.20gHz,    0.43, -73)
+(  5.60gHz,    0.38, -81)
+(  6.00gHz,    0.34, -89)
+(  8.00gHz,    0.18, -148)
+(  10.00gHz,    0.22, 128)
+(  12.00gHz,    0.34, 85) 
 
.ENDS
